US06514971B1
The starting material 5-benzyloxy-2-fluoro-4-methylphenol, was obtained by adding a solution of sodium nitrite (1.68 g, 24 mmol) in water (3.5 ml), dropwise, to a solution of 5-benzyloxy-2-fluoro-4-methylaniline (4.7 g, 20 mmol) in acetic acid (82 ml) and 70% sulphuric acid (3.15 ml) cooled at 10° C. The mixture was stirred vigorously for 20 minutes, then a solution of copper(II)nitrate trihydrate (481 g, 2 mol) in water (790 ml) was added, followed by copper(II)oxide (3 g, 19 mmol). After stirring for 3 hours, the mixture was extracted with ethyl acetate. The organic layer was washed with water and then brine, dried (MgSO4) and the solvent evaporated. The resulting oil was purified by flash chromatography using petroleum ether/ether (85/15) as eluent to give 5-benzyloxy-2-fluoro-4-methylphenol as an orange oil (1.25 g, 27%).

reactant | sodium nitrite | 24 mmol, 1.68 g | N(=O)[O-].[Na+]
reactant | 5-benzyloxy-2-fluoro-4-methylaniline | 20 mmol, 4.7 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(N)C1)F)C | C14H14FNO
solvent | water | 3.5 ml | O | H2O
solvent | acetic acid | 82 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 3.15 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 790 ml | O | H2O
catalyst | copper(II)nitrate trihydrate | 2 mol, 481 g | O.O.O.[N+](=O)([O-])[O-].[Cu+2].[N+](=O)([O-])[O-]
catalyst | copper(II)oxide | 19 mmol, 3 g | [Cu]=O
product | 5-benzyloxy-2-fluoro-4-methylphenol | 1.25 g, 27% | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)O)F)C | C14H13FO2
